US06599917B1
b) 2-Benzyl-6-[(3R,4R)-3-methoxymethyloxy-4-cyclopropyloxypyrrolidine-1-yl]pyridine
A mixture of 229 mg of 2-benzyl-6-[(3R,4R)-3-methoxymethyloxy-4-vinyloxypyrrolidine-1-yl]pyridine, 217 μl of diiodomethane, 1.35 ml of hexane solution containing 1.0 mol of diethylzinc and 3 ml of toluene was stirred at 80° C. for 3 hours. Ammonium chloride was added to the reaction solution, and the mixture was washed with brine, dried over anhydrous magnesium sulfate and the solvent was removed. The residue was subjected to silica gel column chromatography using 15% ethyl acetate/hexane, to give 47.8 mg of the target compound.

reactant | 2-benzyl-6-[(3R,4R)-3-methoxymethyloxy-4-vinyloxypyrrolidine-1-yl]pyridine | 229 mg | C(C1=CC=CC=C1)C1=NC(=CC=C1)N1C[C@H]([C@@H](C1)OC=C)OCOC | C20H24N2O3
reactant | diiodomethane | 217 μl | ICI | CH2I2
reactant | diethylzinc | 1.0 mol | C(C)[Zn]CC
reactant | Ammonium chloride | [Cl-].[NH4+]
solvent | toluene | 3 ml | C1(=CC=CC=C1)C | C7H8
solvent | hexane | 1.35 ml | CCCCCC | C6H14
product | 2-Benzyl-6-[(3R,4R)-3-methoxymethyloxy-4-cyclopropyloxypyrrolidine-1-yl]pyridine | 47.8 mg | C(C1=CC=CC=C1)C1=NC(=CC=C1)N1C[C@H]([C@@H](C1)OC1CC1)OCOC | C21H26N2O3
